* D:\rafaellmario\documents\LTspice\01_BSP89_characteristics\bsp89_output_charac.asc
* Generated by LTspice 26.0.1 for Windows.
M1 N001 N002 0 0 BSP89
VGG N002 0 {vg}
VDD N001 0 1.
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rafaellmario\AppData\Local\LTspice\lib\cmp\standard.mos
.step param vg list 10 6 5 4.6 4.2 3.6 3.4 3
.dc VDD 0 5 0.01
.backanno
.end
