* D:\rafaellmario\documents\LTSpice\02_automation_scripts\05_matlab_dc_sweep\bsp89_output_charac.asc
* Generated by LTspice 26.0.1 for Windows.
M1 N001 N002 0 0 BSP89
VGG N002 0 {vg}
VDD N001 0 1.
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rafaellmario\AppData\Local\LTspice\lib\cmp\standard.mos
.param vg=2.00
.dc VDD 0 5 0.01
.save V(VDD) V(VGG) Id(M1)
.backanno
.end
