CCM Simulation (a)
Vg 1 0 dc 12
Rg 1 1a 1u
Xswitch 1a 2 2 0 4 CCM1
.lib ./lib/ccm1.lib
L1 2 2a 6u
RL1 2a 3 1u
C 3 0 200u
R 3 0 0.5
vd 4 0 dc 0.4166667 ac 1
*.probe
.ac DEC 201 10 100k
.end
