CCM simulation (c)

Vg 1 0 dc 12
Rg 1 1a 1u
Lf 1a 1b 300u IC=4.167
Cf 1b 0 100u IC=12
Xswitch 1b 2 2 0 4 CCM1
.lib ./lib/ccm1.lib
L1 2 2a 6u IC=10
RL1 2a 3 1u
C 3 0 200u IC=5
Sload 3 0 5 0 load
.model load VSWITCH Ron=0.5 Roff=2.5
VLC 5 0 PULSE(-2 2 0 1u 1u 50m 101m)
RLC 5 0 1Meg
vd 4 0 dc 0.4166667
Rd 4 0 1Meg
*.probe
.tran 5u 100m uic
.end
