SEPIC DC conversion and efficiency

*Define parameters:
.param Ron=0.0 VD=0.8 RD=0.05
* Analysis setup:
.dc lin Vc 0.1 1 0.01
.step lin PARAM Ron 0 1 0.5

* converter netlist:
Vg  1  0  50V
L1  1  2x 800u
RL1 2x 2  0.5
L2  0  3x 100uH
RL2 3x 3  0.1
C1  2  3  100u
C2  4  0  100u
Xswitch 2 0 4 3 5 ccm2
+params: Ron={Ron} VD={VD} RD={RD}
Rload 4 0 50

*Duty cycle input
Vc 5 0 0.5
.lib ./lib/ccm2.lib
*.probe
.end
