Buck-boost converter

.lib ./lib/ccm2.lib
Vg 1 0 15
Xswitch 1 2 2 3 5 ccm2
+PARAMS: Ron = 0.05 VD = 0.8 RD = 0
RL 2 4 0.1
L1 4 0 15u ic = 0
C1 3 0 50u ic = 0
* inverting load connection to measure the current
R  0 3 20
Vc 5 0 0.8
.tran 10u 1.2m 0m 10u uic
*.probe
.end
