********************************************************************
* MODEL: ccm2
* Application: two switch PWM converters, includes 
* conduction losses due to Ron, VD, RD
* LIMITATIONS: CCM only, no transformer
********************************************************************
* Parameters: 
* Ron = transistor on-resistance
* VD = diode forward voltage drop
* RD = diode on-resistance
********************************************************************
* Nodes:
* 1: transistor +(D)
* 2: transistor -(S)
* 3: diode cathode (K)
* 4: diode anode (A)
* 5: duty ratio (duty)
********************************************************************
.SUBCKT ccm2 1 2 3 4 5
+PARAMS: Ron = 0 VD = 0 R = 0
	Er 1 1x value={i(Et)*(Ron+(1-v(5))*RD/v(5))/v(5)}
	Et 1x 2 value={(1-v(5))*(v(3,4)+VD)/v(5)}
        Gd 4 3  value={(1-v(5))*i(Et)/v(5)}	
.ENDS
********************************************************************
